US07632519B2
To a solution of capsaicin (0.7 g, 2.3 mmol) and (−)-menthyl chloroformate (0.5 g, 2.3 mmol) in anhydrous dichloromethane (10 mL) was added triethylamine (0.45 g, 4.5 mmol) dropwise at ambient temperature. After the addition, the reaction mixture was stirred at ambient temperature for 2 hours. The reaction mixture was diluted with dichloromethane (DCM), washed with 5% aqueous K2CO3 solution, brine, dried over MgSO4, concentrated to dryness. The obtained crude product was purified through silica gel column chromatography (30% -50% ethyl acetate in hexane as the eluent) to give 0.98 g of capsaicin l-menthol mutual prodrug (87% yield) as clear viscous oil. 1H-NMR and 13C-NMR of the obtained capsaicin l-menthol mutual prodrug were consistent with the desired structure (see FIGS. 34, 35). Mass spectral analysis of the product was consistent with the desired structure (FIG. 36).

reactant | capsaicin | 2.3 mmol, 0.7 g | CC(C)/C=C/CCCCC(=O)NCC=1C=CC(=C(C1)OC)O | C18H27NO3
reactant | (−)-menthyl chloroformate | 2.3 mmol, 0.5 g | ClC(=O)OC1CC(CCC1C(C)C)C | C11H19ClO2
reactant | triethylamine | 4.5 mmol, 0.45 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | capsaicin l-menthol | 0.98 g, 87% yield | CC(C)/C=C/CCCCC(=O)NCC=1C=CC(=C(C1)OC)O.C[C@@H]1CC[C@H]([C@@H](C1)O)C(C)C | InChI=1S/C18H27NO3.C10H20O/c1-14(2)8-6-4-5-7-9-18(21)19-13-15-10-11-16(20)17(12-15)22-3;1-7(2)9-5-4-8(3)6-10(9)11/h6,8,10-12,14,20H,4-5,7,9,13H2,1-3H3,(H,19,21);7-11H,4-6H2,1-3H3/b8-6+;/t;8-,9+,10-/m.1/s1
